US09447078B2
Knochel-Hauser reagent (2,2,6,6-tetramethylpiperidinylmagnesium chloride lithium chloride complex) is added to a mixture of 2-(cyclohexylmethoxy)pyrimidine in THF at −78° C., stirred for 15 min, then DMF is added. The reaction mixture is stirred at −30° C., quenched by aqueous NH4Cl, extracted with ethyl acetate. Combined organic layers are dried over anhydrous Na2SO4 and concentrated under reduced pressure to give 2-(cyclohexylmethoxy)-pyrimidine-4-carbaldehyde.

reactant | 2-(cyclohexylmethoxy)pyrimidine | C1(CCCCC1)COC1=NC=CC=N1 | C11H16N2O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 2-(cyclohexylmethoxy)-pyrimidine-4-carbaldehyde | C1(CCCCC1)COC1=NC=CC(=N1)C=O | C12H16N2O2
